US04349568
To a solution of 9.0 g (0.0550 mole) of 3,4-dichlorophenol dissolved in 150 ml of DMSO was added 2.20 g (0.0550 mole) of NaOH. The mixture was heated to 60° C. and 12.5 g (0.0529 mole) of 4-fluorophenyl phenyl sulfone was added. The reaction mixture was heated at 125° C. for 3.25 hrs and cooled. The mixture was poured into a solution of 100 ml of 20% aqueous NaOH and 600 ml of water. The crystalline product was collected by filtration, washed well with water and partially dried. Recrystallization from ethanol afforded 16.9 g (84.5% yield) of purified 4-(4-(phenylsulfonyl)phenoxy)-1,2-dichlorobenzene, mp 145°-146° C.

reactant | 3,4-dichlorophenol | 0.0550 mole, 9.0 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | NaOH | 0.0550 mole, 2.20 g | [OH-].[Na+]
reactant | 4-fluorophenyl phenyl sulfone | 0.0529 mole, 12.5 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)F | C12H9FO2S
reactant | NaOH | 100 ml | [OH-].[Na+]
reactant | water | 600 ml | O | H2O
solvent | DMSO | 150 ml | CS(=O)C | C2H6OS
product | 4-(4-(phenylsulfonyl)phenoxy)-1,2-dichlorobenzene | 16.9 g, 84.5% yield | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C(OC2=CC(=C(C=C2)Cl)Cl)C=C1 | C18H12Cl2O3S
